US07368476B2
Synthesis of 4-{2-[3-benzofuran-2-yl-4-(2-pyrrolidin-1-ylethoxy)but-2-enoylamino]-ethoxy}-N-hydroxybenzamide hydrochloride
To a solution of 4-{2-[3-benzofuran-2-yl-4-(2-pyrrolidin-1-ylethoxy)but-2-enoyl-amino]ethoxy}benzoic acid methyl ester (90 mg, 0.182 mmol) in THF (1 ml), a solution of hydroxylamine in 50% water (1 ml) and 1N NaOH (0.050 ul) were added. Methanol was added dropwise until a homogeneous solution was obtained and the reaction mixture was stirred overnight at rt. After cooling the mixture at 0° C., 6 N HCl was added until pH 7 was reached. The crude solid was filtered and purified by HPLC to give the title compound (17 mg) as white solid. LC/MS, M+1: 494.3; M−1: 492.2.

reactant | 4-{2-[3-benzofuran-2-yl-4-(2-pyrrolidin-1-ylethoxy)but-2-enoyl-amino]ethoxy}benzoic acid methyl ester | 0.182 mmol, 90 mg | COC(C1=CC=C(C=C1)OCCN(C(C=CCOCCN1CCCC1)=O)C1=CC2=C(O1)C=CC=C2)=O | C28H32N2O6
reactant | hydroxylamine | NO | H3NO
reactant | Methanol | CO | CH4O
reactant | HCl | 6 N | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | NaOH | 1N, 0.050 ul | [OH-].[Na+]
product | 4-{2-[3-benzofuran-2-yl-4-(2-pyrrolidin-1-ylethoxy)but-2-enoylamino]-ethoxy}-N-hydroxybenzamide hydrochloride | 17 mg | Cl.O1C(=CC2=C1C=CC=C2)N(CCOC2=CC=C(C(=O)NO)C=C2)C(C=CCOCCN2CCCC2)=O | InChI=1S/C27H31N3O6.ClH/c31-25(8-5-17-34-18-15-29-13-3-4-14-29)30(26-20-22-6-1-2-7-24(22)36-26)16-19-35-23-11-9-21(10-12-23)27(32)28-33;/h1-2,5-12,20,33H,3-4,13-19H2,(H,28,32);1H
